US07517873B2
To a solution of 1.5 g (0.010 mole) of (rac)-3-amino-butanoic acid ethyl ester (90% technical grade) and 0.93 mL (0.0105 mole) of cyclopentanone in 50 mL of dichloromethane was added 1.8 g (0.022 mole) of sodium acetate and 3.18 g (0.015 mole) of sodium triacetoxyborohydride. The mixture was stirred overnight at room temperature and then 50 mL of 10% sodium bicarbonate solution was added. The aqueous layer was extracted twice with 50 mL of dichloromethane and then combined dichloromethane layers were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (100:0-95:5 gradient) to give 1.0 g of (rac)-3-cyclopentylamino-butanoic acid ethyl ester as a colorless oil.

reactant | (rac)-3-amino-butanoic acid ethyl ester | 0.010 mole, 1.5 g | C(C)OC(CC(C)N)=O | C6H13NO2
reactant | cyclopentanone | 0.0105 mole, 0.93 mL | C1(CCCC1)=O | C5H8O
reactant | sodium acetate | 0.022 mole, 1.8 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 0.015 mole, 3.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (rac)-3-cyclopentylamino-butanoic acid ethyl ester | 1.0 g | C(C)OC(CC(C)NC1CCCC1)=O | C11H21NO2
